US08076358B2
Step D: (3-[5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile
[1-Cyano-2-(tetrahydro-pyran-4-yl)-ethyl]-phosphonic acid diethyl ester (0.614 g, 2.23 mmol), prepared as described in Example 1, Steps A and B, was dissolved in THF (75 mL) and the resulting mixture cooled to 0° C. Lithium (bistrimethylsilyl)amide (2.2 mL, 2.2 mmol, [1M]) was then added dropwise. The resulting mixture was stirred 15 min, and then 5-(3-[1,3]dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-benzaldehyde (0.6 g, 1.65 mmol) was added. Stirring was continued at room temperature overnight. The resulting mixture was then diluted with ethyl acetate and washed with saturated aqueous NaHCO3. The organic phase was separated and dried with MgSO4, and filtered. The solvent was removed to yield an oil, which was used in the next step without further purification.

reactant | [1-Cyano-2-(tetrahydro-pyran-4-yl)-ethyl]-phosphonic acid diethyl ester | 2.23 mmol, 0.614 g | C(C)OP(OCC)(=O)C(CC1CCOCC1)C#N | C12H22NO4P
reactant | 5-(3-[1,3]dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-benzaldehyde | 1.65 mmol, 0.6 g | O1C(OCCC1)C=1C=C(C=CC1)SC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])F | C17H14FNO5S
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile | O1C(OCCC1)C=1C=C(C=CC1)SC=1C(=CC(=C(C1)C=C(C#N)CC1CCOCC1)[N+](=O)[O-])F | C25H25FN2O5S
